.subckt sg13g2_xnor2_4 Y A B VDD VSS
XP4 Y net1 VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP3 Y B net4 VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP2 net4 A VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP1 net1 B VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 ad=2.856e-13 as=2.856e-13 pd=2.36e-06 ps=2.36e-06
XP0 net1 A VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 ad=2.856e-13 as=2.856e-13 pd=2.36e-06 ps=2.36e-06
XN3 Y net1 net3 VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XN1 net2 A VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1 ad=2.176e-13 as=2.176e-13 pd=1.96e-06 ps=1.96e-06
XN0 net1 B net2 VSS sg13_lv_nmos w=640.00n l=130.00n ng=1 ad=2.176e-13 as=2.176e-13 pd=1.96e-06 ps=1.96e-06
XN4 net3 B VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XN2 net3 A VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
.ends
